US07622464B2
Description 32: 5-Aminomethyl-isoxazole-3-carboxylic acid ethyl ester
To a stirred solution of 5-(tert-butoxycarbonylaminomethyl)-isoxazole-3-carboxylic acid ethyl ester (1.954 g) (EP 0451790) in ethanol (15 ml) was added a solution of 4.0M hydrogen chloride in 1,4-dioxane (23 ml). The mixture was stirred at 20° C. for 22 h and the solvent evaporated in vacuo to give the title compound (1.128 g) as a pale brown solid.

reactant | 5-(tert-butoxycarbonylaminomethyl)-isoxazole-3-carboxylic acid ethyl ester | 1.954 g | C(C)OC(=O)C1=NOC(=C1)CNC(=O)OC(C)(C)C | C12H18N2O5
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 23 ml | O1CCOCC1 | C4H8O2
product | 5-Aminomethyl-isoxazole-3-carboxylic acid ethyl ester | 1.128 g | C(C)OC(=O)C1=NOC(=C1)CN | C7H10N2O3
